US06569854B1
4.6 g of N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride are added, at 20° C., under an argon atmosphere, to a solution of 2.3 g of N,N-dimethylglycine, 3.2 cm3 of ethyl 4-piperidinecarboxylate, 3.4 cm3 of triethylamine and 0.27 g of hydroxybenzotriazol hydrate in 100 cm3 of dichloromethane. After stirring for 18 hours, the reaction mixture is washed with twice 100 cm3 of distilled water. The organic phase is dried over magnesium sulfate, filtered and then concentrated to dryness under reduced pressure (2.7 kPa). 4.6 g of ethyl 1-(dimethylaminoacetyl)piperidine-4-carboxylate are obtained in the form of a yellow oil.

reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 4.6 g | Cl.CN(CCCN=C=NCC)C
reactant | N,N-dimethylglycine | 2.3 g | CN(CC(=O)O)C | C4H9NO2
reactant | ethyl 4-piperidinecarboxylate | 3.2 cm3 | N1CCC(CC1)C(=O)OCC | C8H15NO2
reactant | triethylamine | 3.4 cm3 | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 cm3 | ClCCl | CH2Cl2
catalyst | hydroxybenzotriazol hydrate | 0.27 g | O.OC1=CC=CC=2NN=NC21
product | ethyl 1-(dimethylaminoacetyl)piperidine-4-carboxylate | 4.6 g | CN(C)CC(=O)N1CCC(CC1)C(=O)OCC | C12H22N2O3
